US07858621B2
N-(3-Fluoro-4-methanesulfonylamino-benzyl)-3-(2-pyrrolidin-1-yl-6-trifluoromethyl-pyridin-3-yl)-acrylamide
To a suspension of 3-(2-chloro-6-trifluoromethyl-pyridin-3-yl)-N-(3-fluoro-4-methanesulfonylamino-benzyl)-acrylamide (40 mg, 0.088 mmol) in pyrrolidine (0.4 ml) was added DMF (0.5 ml). The mixture was stirred for 12 hours at 110° C. The reaction mixture was diluted with EtOAc and then washed two times with 1N-HCl and brine, dried over MgSO4, filtered and concentrated under reduced pressure. The crude residue was column-chromatographed to yield the title compound (40 mg, 93%).

reactant | 3-(2-chloro-6-trifluoromethyl-pyridin-3-yl)-N-(3-fluoro-4-methanesulfonylamino-benzyl)-acrylamide | 0.088 mmol, 40 mg | ClC1=NC(=CC=C1C=CC(=O)NCC1=CC(=C(C=C1)NS(=O)(=O)C)F)C(F)(F)F | C17H14ClF4N3O3S
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
reactant | pyrrolidine | 0.4 ml | N1CCCC1 | C4H9N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(3-Fluoro-4-methanesulfonylamino-benzyl)-3-(2-pyrrolidin-1-yl-6-trifluoromethyl-pyridin-3-yl)-acrylamide | 40 mg, 93% | FC=1C=C(CNC(C=CC=2C(=NC(=CC2)C(F)(F)F)N2CCCC2)=O)C=CC1NS(=O)(=O)C | C21H22F4N4O3S
